US07985754B2
2-{(3-[1-((2-Chloro)phenoxycarbanoyl)piperidin-4-yl]propyn-1-yl}adenosine
To a solution of 2-iodoadenosine (0.602 g, 1.531 mmol) in freshly degassed DMF (20 mL) was added degassed triethylamine (1.20 mL, 8.54 mmol), Pd(PPh3)4 (85 mg, 0.074 mmol), CuI (catalytic), and 2-chlorophenyl 4-(prop-2-ynyl)piperidine-1-carboxylate (0.588 g, 2.117 mmol). The mixture was stirred at room temperature under and inert atmosphere for 20 h. Silica bound Pd(II) scavenger Si-thiol (400 mg) and Pd(0) scavenger Si-TAAcOH (619 mg) were added and stirring continued a further 72 h. The suspension was filtered through celite and the resulting solution evaporated to dryness. The crude was purified by column chromatography, eluting with a gradient of DCM/MeOH (0-4%) to afford the pure product as a white solid: yield 0.733 g, 88%.

reactant | 2-iodoadenosine | 1.531 mmol, 0.602 g | IC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12IN5O4
reactant | triethylamine | 8.54 mmol, 1.20 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chlorophenyl 4-(prop-2-ynyl)piperidine-1-carboxylate | 2.117 mmol, 0.588 g | C(C#C)C1CCN(CC1)C(=O)OC1=C(C=CC=C1)Cl | C15H16ClNO2
catalyst | Pd(PPh3)4 | 0.074 mmol, 85 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | [Cu]I
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (3-[1-((2-Chloro)phenoxycarbanoyl)piperidin-4-yl]propyn-1-yl}adenosine | ClC1=C(OC(=O)N2CCC(CC2)CC#C[C@@]2([C@H](O)[C@H](O)[C@@H](CO)O2)N2C=NC=3C(N)=NC=NC23)C=CC=C1 | C25H27ClN6O6
